US07723345B2
Sodium tiracetoxyl borohydride (215 mg, 1.02 mmol) was added to the solution of 4′-methyl-biphenyl-2-carbaldehyde and 5-bromo-pyrazin-2-ylamine in 5 ml of DCE, 0.1 ml of HOAc was added and the mixture was stirred overnight at room temperature, followed by addition of 5 ml of DCE. The organic phase was washed with water, and purified with column (silica gel, hexane:EtOAc 6:1) to give 100 mg of (5-bromo-pyrazin-2-yl)-(4′-methyl-biphenyl-2-ylmethyl)-amine, yield 55%.

reactant | Sodium | 1.02 mmol, 215 mg | [Na] | Na
reactant | 4′-methyl-biphenyl-2-carbaldehyde | CC1=CC=C(C=C1)C=1C(=CC=CC1)C=O | C14H12O
reactant | 5-bromo-pyrazin-2-ylamine | BrC=1N=CC(=NC1)N | C4H4BrN3
solvent | DCE | 5 ml | ClCCCl | C2H4Cl2
solvent | HOAc | 0.1 ml | CC(=O)O | C2H4O2
solvent | DCE | 5 ml | ClCCCl | C2H4Cl2
product | (5-bromo-pyrazin-2-yl)-(4′-methyl-biphenyl-2-ylmethyl)-amine | 100 mg, yield 55% | BrC=1N=CC(=NC1)NCC1=C(C=CC=C1)C1=CC=C(C=C1)C | C18H16BrN3
